US07462624B2
Step C: 7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione
7-Benzyl-3,7-dihydro-1H-purine-2,6-dione (5.0 g, 21 mmol) was mixed with sodium carbonate (3.3 g, 31 mmol) and 1-iodopentane (4.0 mL, 31 mmol) in DMF (60 mL). After being stirred at 40° C. for 18 h, the reaction mixture was diluted with water and EtOAc. The aqueous layer was extracted with EtOAc twice. The combined organic layers were dried, filtered and concentrated. The resulting white solid was collected and dried in vacuum oven at 50° C. for 18 h to provide the desired product (2.84 g, 44% yield). LCMS calculated for C17H21N4O2 (M+H): 313.2; found: 313.2.

reactant | 7-Benzyl-3,7-dihydro-1H-purine-2,6-dione | 21 mmol, 5.0 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
reactant | sodium carbonate | 31 mmol, 3.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-iodopentane | 31 mmol, 4.0 mL | ICCCCC | C5H11I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | 2.84 g, 44% yield | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)CCCCC | C17H20N4O2
